US08404678B2
To a solution of 3,5-bis-hydroxymethylphenol (Felder, D.; Gutiérrez Nava, M.; del Pilar Carreon, M.; Eckert, J. F.; Luccisano, M.; Schell, C.; Masson, P.; Gallani, J. L.; Heinrich, B.; Guillon, D.; Nierengarten, J. F. Helv. Chimica Acta 2002, 85, 288) (200 mg), potassium iodide (50 mg) and potassium carbonate (540 mg) in THF (2.5 mL) was added 4-bromo-butyric acid methyl ester (400 μL). The reaction mixture was stirred for 20 h at room temperature then the unsoluble part was filtered off. The filtrate was concentrated in vacuo and the residue was purified by silica gel chromatography (Merck SuperVarioFlash 30 g column, Si60 15-40 μm), using gradient elution with a mixture of MeOH (A)/DMC (B), (gradient: 100% B down to 5% A: 95% B) to give 4-(3,5-bis-hydroxymethyl-phenoxy)-butyric acid methyl ester (53.5 mg): LC/MS (Method A2: ES: m/z=255 MH+; m/z=237 (M+H−H2O)+; RT=2.5 min; 1H N.M.R. (400 MHz, DMSO-d6, δ in ppm): δ=1.96 (m, 2H); 2.47 (t, J=6.5 Hz, 2H); 3.61 (s, 3H); 3.96 (t, J=6.5 Hz, 2H); 4.43 (d, J=6.0 Hz, 4H); 5.11 (t, J=6.0 Hz, 2H); 6.71 (s, 2H); 6.82 (s, 1H).

reactant | 3,5-bis-hydroxymethylphenol | 200 mg | OCC=1C=C(C=C(C1)CO)O | C8H10O3
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | potassium carbonate | 540 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-butyric acid methyl ester | 400 μL | COC(CCCBr)=O | C5H9BrO2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 4-(3,5-bis-hydroxymethyl-phenoxy)-butyric acid methyl ester | 53.5 mg | COC(CCCOC1=CC(=CC(=C1)CO)CO)=O | C13H18O5
